US07378418B2
Preparation of 2-(4-(Isoxazol-5-yl)benzyl)-8-chloro-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a solution of 8-chloro-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (300 mg, 1.07 mmol), prepared as described in Example 354, in DMF (5 mL) was added K2CO3 (180 mg, 1.3 mmol) followed by 5-(4-(bromomethyl)phenyl)isoxazole (305 mg, 1.28 mmol), prepared as described in Example 250A. The reaction mixture was stirred at 70° C. for 2 h. The reaction mixture was cooled to RT, diluted with water (25 mL) and a precipitate formed. The solid was collected by filtration. The solid was washed with water (2×25 mL) followed by hexanes (20 mL). The solid was dried in a vacuum oven at 40° C. The title compound 2-(4-(isoxazol-5-yl)benzyl)-8-chloro-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (450 mg, 96%) was obtained as a yellow solid. HPLC: 3.50 min; M+H=438.

reactant | 8-chloro-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 1.07 mmol, 300 mg | ClC=1C=2N(N=CC1C1=CC=C(C=C1)Cl)C(NN2)=O | C11H6Cl2N4O
reactant | K2CO3 | 1.3 mmol, 180 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-(4-(bromomethyl)phenyl)isoxazole | 1.28 mmol, 305 mg | BrCC1=CC=C(C=C1)C1=CC=NO1 | C10H8BrNO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
product | 2-(4-(isoxazol-5-yl)benzyl)-8-chloro-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 450 mg, 96% | O1N=CC=C1C1=CC=C(CN2N=C3N(N=CC(=C3Cl)C3=CC=C(C=C3)Cl)C2=O)C=C1 | C21H13Cl2N5O2
